US06608070B1
2-Bromoacetyl-4-ethyl-3-fluoropyridine:
The title compound was prepared from 2-acetyl-4-ethyl-3-fluoropyridine according to the procedure for preparing 2-bromoacetyl-4-ethylpyridine described in Example 57.

reactant | 2-acetyl-4-ethyl-3-fluoropyridine | C(C)(=O)C1=NC=CC(=C1F)CC | C9H10FNO
reactant | 2-bromoacetyl-4-ethylpyridine | BrCC(=O)C1=NC=CC(=C1)CC | C9H10BrNO
product | 2-Bromoacetyl-4-ethyl-3-fluoropyridine | BrCC(=O)C1=NC=CC(=C1F)CC | C9H9BrFNO
